US08859602B2
b) 4-Cyano-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[4-hydroxy-2,2,6,6-tetramethyl-1-(2,2,2-trifluoro-ethyl)-piperidin-4-yl]-phenyl}-amide
The title compound was prepared as described in Example 1, step (h) using 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (as prepared in Example 1, step (g) and 2,2,6,6-tetramethyl-1-(2,2,2-trifluoro-ethyl)-piperidin-4-one (as prepared above). 1H-NMR (CD3OD; 400 MHz): δ 8.22 (d, 1H, J=8.4 Hz), 7.98 (s, 1H), 7.43 (dd, 1H, J=8.4, 2.0 Hz), 7.33 (d, 1H, J=2.0 Hz), 5.73 (br s, 1H), 4.18 (m, 2H), 2.28-2.36 (m, 4H), 2.08 (m, 4H), 1.73 (s, 6H), 1.58 (m, 2H), 1.42 (m, 6H), 1.08 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C30H38F3N5O2, 558.3 (M+H). found 558.0.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | BrC1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C | C19H19BrN4O
reactant | 2,2,6,6-tetramethyl-1-(2,2,2-trifluoro-ethyl)-piperidin-4-one | CC1(N(C(CC(C1)=O)(C)C)CC(F)(F)F)C | C11H18F3NO
product | 4-Cyano-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[4-hydroxy-2,2,6,6-tetramethyl-1-(2,2,2-trifluoro-ethyl)-piperidin-4-yl]-phenyl}-amide | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CC(N(C(C1)(C)C)CC(F)(F)F)(C)C)O)NC(=O)C=1NC=C(N1)C#N)C | C30H38F3N5O2
